US05948932
Synthesis of N-methyl-[2-(2,3-bismethoxyimino-1-methylbutylideneaminooxymethyl)phenyl]methoxyiminoacetamide
2 ml of 40% strength aqueous methylamine solution are added to a solution of 0.6 g (1.5 mmol) of methyl [2-(2,3-bismethoxyimino-1-methylbutylideneaminooxymethyl)phenyl]methoxyiminoacetate in 10 ml of tetrahydrofuran, and the mixture is stirred for 12 hours at room temperature. For working up, the reaction mixture is evaporated in vacuo, taken up in 20 ml of diethyl ether, washed using 20 ml of water, dried over sodium sulfate and evaporated in vacuo. This gives 0.6 g (98%) of an oil.

reactant | methylamine | CN | CH5N
reactant | methyl [2-(2,3-bismethoxyimino-1-methylbutylideneaminooxymethyl)phenyl]methoxyiminoacetate | 1.5 mmol, 0.6 g | CON=C(C(C)=NOCC1=C(C=CC=C1)CON=CC(=O)OC)C(C)=NOC | C18H24N4O6
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-methyl-[2-(2,3-bismethoxyimino-1-methylbutylideneaminooxymethyl)phenyl]methoxyiminoacetamide | CNC(C=NOCC1=C(C=CC=C1)CON=C(C(C(C)=NOC)=NOC)C)=O | C18H25N5O5
